US06586475B1
6-(4-Biphenylylmethoxy)nicotinic Acid
To a solution of methyl 6-(4-biphenylylmethoxy)nicotinate (2.0 g) in methanol (20 ml)/THF(40 ml) was added iN aqueous sodium hydroxide (13 ml) at room temperature. After stirring at room temperature for 4 hr the reaction mixture was diluted with 1 N hydrochloric acid (13 ml) and concentrated. The precipitate was collected by filtration and washed with water and diethyl ether sequentially to obtain the titled compound (1.6 g) as amorphous powder.

reactant | methyl 6-(4-biphenylylmethoxy)nicotinate | 2.0 g | C1(=CC=C(C=C1)COC1=NC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C20H17NO3
reactant | THF | 40 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
solvent | sodium hydroxide | 13 ml | [OH-].[Na+]
solvent | hydrochloric acid | 1 N, 13 ml | Cl | ClH
product | 6-(4-Biphenylylmethoxy)nicotinic Acid | 1.6 g | C1(=CC=C(C=C1)COC1=NC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C19H15NO3
